US07741327B2
In a flask was placed bicyclo[2.2.1]hept-7-yl-acetic acid (554 mg, 3.95 mmol), diethyl ether (20 mL) and methanol (5 mL) and cooled to 0° C. in an ice bath. The mixture was then treated with a 2M solution of (trimethylsilyl)diazomethane in diethyl ether (3.95 mL, 7.9 mmol) dropwise. After the addition was complete, the mixture was warmed to 25° C. and stirred for 1 h. The mixture was concentrated in vacuo to afford bicyclo[2.2.1]hept-7-yl-acetic acid methyl ester (theoretical yield 3.95 mmol) which was used on crude. Bicyclo[2.2.1]hept-7-yl-acetic acid methyl ester (3.95 mmol) in diethyl ether (10 mL) was added dropwise to a stirred suspension of lithium aluminum hydride (224 mg, 5.9 mmol) in diethyl ether (20 mL) cooled to 0° C. The mixture was stirred for an additional 3 h at 0° C. and quenched with a saturated sodium sulfate solution (15 mL), extracted with diethyl ether (3×20 mL). The combined organics were dried over sodium sulfate, concentrated in vacuo and purified by AnaLogix IntelliFlash flash chromatography (12 g column, 20% ethyl acetate/hexanes to 40% ethyl acetate/hexanes) to afford bicyclo[2.2.1]hept-7-yl-methanol (180 mg, 36%).

reactant | Bicyclo[2.2.1]hept-7-yl-acetic acid methyl ester | 3.95 mmol | COC(CC1C2CCC1CC2)=O | C10H16O2
reactant | lithium aluminum hydride | 5.9 mmol, 224 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | bicyclo[2.2.1]hept-7-yl-methanol | 180 mg, 36% | C12CCC(CC1)C2CO | C8H14O
